US06573270B1
2-{[5-amino-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-3-yl]oxy}ethyl acetate
5-Amino-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-3-ol (Preparation 34) (11.39 g) was dissolved in dimethylformamide (40 ml), cesium carbonate (15.9 g) was added followed by 2-bromoethylacetate (8.16 g). The mixture was stirred at room temperature for 16 hours. The mixture was treated with water (750 ml) and extracted with ethyl acetate (2×250 ml). The organic fractions were combined washed with water (3×350 ml), brine (250 ml), dried over magnesium sulfate, filtered and evaporated. The crude product was purified on silica (300 g) eluting with ethyl acetate:hexane (3:1) to yield the title compound as a white solid (5.57 g).

reactant | 5-Amino-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-3-ol | 11.39 g | NC1=C(C(=NN1C)O)C1=CC2=C(OCO2)C=C1 | C11H11N3O3
reactant | cesium carbonate | 15.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoethylacetate | 8.16 g | BrCCOC(C)=O | C4H7BrO2
reactant | water | 750 ml | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-{[5-amino-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-3-yl]oxy}ethyl acetate | 5.57 g | C(C)(=O)OCCOC1=NN(C(=C1C1=CC2=C(OCO2)C=C1)N)C | C15H17N3O5
